US05459154
4-Hydroxy-4-[4-(2-phenyl-thiazol-4-ylmethoxy)-benzyl]-semicarbazide hydrochloride
In to a solution of 4-hydroxy-4-[4-(2-phenyl-thiazol-4-ylmethoxy)-benzyl]-semicarbazide (1.0 g, 2.7 mmol) in THF (10 mL) was added 1N HCl in ethyl ether (1.0M, 2.7 mL, 27 mmol). After stirring for 10 minutes, additional ethyl ether (10 mL) was added and the precipitated solid was filtered and dried to give a white solid, in 88% yield, m.p. 159°-160° C.

reactant | 4-hydroxy-4-[4-(2-phenyl-thiazol-4-ylmethoxy)-benzyl]-semicarbazide | 2.7 mmol, 1.0 g | ON(C(NN)=O)CC1=CC=C(C=C1)OCC=1N=C(SC1)C1=CC=CC=C1 | C18H18N4O3S
reactant | HCl | 1N | Cl | ClH
reactant | ethyl ether | 27 mmol, 1.0M, 2.7 mL | C(C)OCC | C4H10O
reactant | ethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-4-[4-(2-phenyl-thiazol-4-ylmethoxy)-benzyl]-semicarbazide hydrochloride | 88% yield | Cl.ON(C(NN)=O)CC1=CC=C(C=C1)OCC=1N=C(SC1)C1=CC=CC=C1 | InChI=1S/C18H18N4O3S.ClH/c19-21-18(23)22(24)10-13-6-8-16(9-7-13)25-11-15-12-26-17(20-15)14-4-2-1-3-5-14;/h1-9,12,24H,10-11,19H2,(H,21,23);1H
